US07435837B2
Treatment of 4′-chloro-2′-methyl-1,1′-biphenyl-2-ol (4.54 g, 20.78 mmol) with potassium carbonate (11.47 g, 83.04 mmol) and allyl bromide (3.01 g, 24.91 mol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-4′-chloro-2′-methyl-1,1′-biphenyl-2-ol. Treatment of 3-allyl-4′-chloro-2′-methyl-1,1′-biphenyl-2-ol (4.5 g, 17.39 mmol) with 3-chloroperoxybenzoic acid (12.0 g, 69.57 mmol, 77%) followed by potassium carbonate (6.0 g, 43.48 mmol) generally according to the procedure described for Intermediate 9 afforded 2.9 g (61%) of (±)-[7-(4-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol as a colorless oil. Anal. calcd. for C16H15ClO2: C, 69.95; H, 5.5. Found: C, 69.23; H, 5.42.

reactant | 4′-chloro-2′-methyl-1,1′-biphenyl-2-ol | 20.78 mmol, 4.54 g | ClC1=CC(=C(C=C1)C=1C(=CC=CC1)O)C | C13H11ClO
reactant | potassium carbonate | 83.04 mmol, 11.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 24.91 mol, 3.01 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | 3-allyl-4′-chloro-2′-methyl-1,1′-biphenyl-2-ol | C(C=C)C1=C(C(=CC=C1)C1=C(C=C(C=C1)Cl)C)O | C16H15ClO
reactant | 3-allyl-4′-chloro-2′-methyl-1,1′-biphenyl-2-ol | 17.39 mmol, 4.5 g | C(C=C)C1=C(C(=CC=C1)C1=C(C=C(C=C1)Cl)C)O | C16H15ClO
reactant | 3-chloroperoxybenzoic acid | 69.57 mmol, 12.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 43.48 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (±)-[7-(4-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 2.9 g, 61% | ClC1=CC(=C(C=C1)C1=CC=CC=2CC(OC21)CO)C | C16H15ClO2
